Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cats, dogs, dust, pollen
 
Attending: ___.
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F with hx of EtOH cirrhosis c/b esophageal 
varices s/p recent banding (___), stomach ulcer, ESRD (HD 
TTS, last session ___, HTN, asthma who presented to the ED 
from ___ ___ concerns of increased 
lethargy. 
 
Past Medical History:
EtOh Cirrhosis 
Stage IV CKD
Anemia
Wernicke's Encephalopathy
Asthma
Tobacco Use
HTN
Hypothyroidism
CIN II (cervical intraepithelial neoplasia II)
RLE DVT ___ dt L patella fx s/p IVC filter (removed),  w/
catheter
directed thrombolysis c/b ?extravasation into right thigh. DVT 
in
setting of immobility from left patella fracture
S/P BARIATRIC SURGERY ___ - ___ w/ Dr. ___ 
___
Seasonal allergies
ascites
esophageal varices
malnutrition
HEMORRHOIDS
HEPATIC HYDROTHORAX
COLONIC ADENOMA
 
Social History:
___
Family History:
Mother ASTHMA 
  DIABETES ___ 
  HYPERTENSION 
  THYROID DISORDER 
  OBESITY 
  
Father SUBSTANCE ABUSE 
  CARDIAC 
  HYPERTENSION 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: 112/64, HR 55, RR 16, 100% on RA 
GENERAL: Sleepy and only opens eyes to voice when asked. She is
responsive to voice though and able to answer all questions. On
reassessment, wide awake, attentive, interactive.
HEENT: Sclera anicteric and without injection. Dry mucous
membranes.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. Tenderness to palpation over right breast,
no overlying bruise.
LUNGS: Bilateral basilar crackles during inspiration in lower
lung fields. Clear to auscultation otherwise. No wheezes, 
rhonchi
or rales. No increased work of breathing.
BACK: No CVA tenderness. Multiple ecchymoses including over 
right
flank and right shoulder. 
ABDOMEN: Normal bowels sounds, non distended, diffusely tender 
to
palpation in all quadrants, greatest in RUQ. 
EXTREMITIES: Pitting edema bilaterally to mid-shin 2+. Pulses
DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. Multiple ecchymoses on bilateral
forearms, shoulder/flank. Large ecchymosis with mild erythema
with no fluctuance on right AC. 
NEUROLOGIC: AOx3 -- able to state ___, ___, did not
know it was ___. + Asterixis bilaterally. Bilateral arms and
legs passive motion intact without spasticity. 

DISCHARGE PHYSICAL EXAM:
======================
24 HR Data (last updated ___ @ 1123)
    Temp: 98.4 (Tm 98.6), BP: 112/73 (93-133/56-77), HR: 76
(74-87), RR: 15 (___), O2 sat: 97% (97-99), O2 delivery: ra,
Wt: 175.5 lb/79.61 kg  
GENERAL: AAOx3, no acute distress, appears well compared to 
prior
examinations
HEAD: large ecchymosis on left later head
HEENT: PERRL, EOMI
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
Systolic
murmur.
LUNGS: CTAB, no increased work of breathing
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation in all quadrants but also appeared somnolent, 
difficult
to assess
EXTREMITIES: Pitting edema bilaterally to mid-shin 2+ R>L. 
Pulses
DP/Radial 2+ bilaterally. Large ecchymosis on left shoulder.
SKIN: Warm. Cap refill <2s. Multiple ecchymoses on bilateral
forearms, shoulder/flank. 
NEUROLOGIC: AOx3, + Asterixis bilaterally but improved compared
to yesterday. Bilateral arms and legs passive motion intact
without spasticity.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:30AM   ___ PTT-31.4 ___
___ 11:30AM   PLT COUNT-84*
___ 11:30AM   NEUTS-69.8 LYMPHS-14.9* MONOS-12.2 EOS-2.3 
BASOS-0.4 IM ___ AbsNeut-5.41 AbsLymp-1.16* AbsMono-0.95* 
AbsEos-0.18 AbsBaso-0.03
___ 11:30AM   WBC-7.8 RBC-1.84* HGB-5.8* HCT-19.3* MCV-105* 
MCH-31.5 MCHC-30.1* RDW-22.5* RDWSD-84.2*
___ 11:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:30AM   HCG-6
___ 11:30AM   ALBUMIN-3.2*
___ 11:30AM   CK-MB-14*
___ 11:30AM   cTropnT-0.05*
___ 11:30AM   LIPASE-90*
___ 11:30AM   ALT(SGPT)-27 AST(SGOT)-51* ALK PHOS-253* TOT 
BILI-0.9
___ 11:30AM   GLUCOSE-104* UREA N-49* CREAT-9.2*# 
SODIUM-136 POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-22 ANION GAP-15
___ 11:34AM   LACTATE-1.8
___ 11:34AM   ___ COMMENTS-GREEN TOP
___ 03:45PM URINE  WBCCLUMP-FEW*
___ 03:45PM URINE  RBC-7* WBC-32* BACTERIA-FEW* YEAST-NONE 
EPI-27
___ 03:45PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG*
___ 03:45PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 03:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:45PM URINE  UCG-NEGATIVE
___ 03:45PM URINE  HOURS-RANDOM
___ 06:15PM   cTropnT-0.04*
___ 06:15PM   CK(CPK)-432*
___ 07:00PM   PLT COUNT-78*
___ 07:00PM   WBC-6.6 RBC-2.21* HGB-6.8* HCT-22.7* MCV-103* 
MCH-30.8 MCHC-30.0* RDW-21.2* RDWSD-77.5*
___ 11:21PM   PLT COUNT-80*
___ 11:21PM   WBC-6.7 RBC-2.45* HGB-7.6* HCT-24.5* MCV-100* 
MCH-31.0 MCHC-31.0* RDW-21.1* RDWSD-74.4*
___ 11:36PM   LACTATE-2.5* NA+-135 K+-3.7
___ 11:36PM   ___ PO2-153* PCO2-41 PH-7.29* TOTAL 
CO2-21 BASE XS--6 COMMENTS-GREEN TOP

MICRO:
======
___ UCx:
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH 
SKIN
      AND/OR GENITAL CONTAMINATION. 

___ BCx: NGTD

REPORTS:
========
___ GLENOHEMORAL XR
No fracture or dislocation

___ DX ELBOW & FOREARM
No visualized fracture.  Of note, patient was unable to properly 
position for
90 degree flexion lateral view of the right elbow to assess for 
the
presence/absence of an elbow joint effusion.

___ CT C-SPINE W/O CONTRAST
No cervical spine fracture or malalignment.

___ CT CHEST/ABD/PELVIS W/O
1. No evidence of acute intrathoracic or intraabdominal injury 
within the
limitation of an unenhanced scan.
2. No fractures the imaged portions of the body.  The left 
clavicle is not
included in the study.
3. New subcutaneous hematomas measure up to 1.9 cm anterior to 
the right iliac
crest and in the left gluteal region.
4. Redemonstrated 1.7 cm intermediate density lesion in the 
interpolar region
of the right kidney.  Consider renal ultrasound in non urgent 
basis for
further characterization.

DISCHARGE LABS:
==============
___ 07:17AM BLOOD WBC-8.3 RBC-2.37* Hgb-7.3* Hct-24.2* 
MCV-102* MCH-30.8 MCHC-30.2* RDW-20.4* RDWSD-74.1* Plt Ct-87*
___ 07:17AM BLOOD Plt Ct-87*
___ 07:17AM BLOOD ___ PTT-33.7 ___
___ 07:17AM BLOOD Glucose-75 UreaN-26* Creat-5.3*# Na-139 
K-4.3 Cl-101 HCO3-24 AnGap-14
___ 07:17AM BLOOD ALT-28 AST-54* LD(LDH)-281* AlkPhos-272* 
TotBili-1.5
___ 07:17AM BLOOD Albumin-3.0* Calcium-8.2* Phos-4.0 Mg-2.___RIEF SUMMARY:
==============
Ms. ___ is a ___ yo F with hx of EtOH cirrhosis c/b esophageal
varices s/p recent banding (___), stomach ulcer, ESRD (HD 
TTS), HTN, asthma who presents to the ED from ___ concerns of increased lethargy following a fall 
down stairs at home. The patient required 2u pRBCs for low Hgb 
in the ED and was noted to be lethargic, her lactulose was 
increased and she received HD and her mentation improved. She 
was discharged AAOx3 in stable condition.

ACUTE ISSUES:
=============
#Hepatic encephalopathy
#Uremic encephalopathy
#AMS
The patient presented from her hemodialysis center to the ED w/ 
lethargy and a known recent fall down a flight of stairs. At the 
time of presentation, she was noted to be lethargic but able to 
converse without difficulty. Upon arrival to the floor, she 
remained lethargic but arousable to voice and able to follow 
commands. She described not taking her lactulose recently, 
missing a session of HD as a result of her lethargy, and recent 
alcohol use. HE, uremic encephalopathy, and alcohol use were all 
considered as etiologies for her AMS. She was given lactulose at 
an increased rate and had runs of HD on back-to-back days. Her 
mentation improved to baseline, AAOx3, and she was returned to 
her usual lactulose dose and TTS HD schedule at time of 
discharge.

#Alcoholic hallucinosis
On day two of her hospitalization the patient described a 
hallucination in which a man was standing over her and repeating 
her name, ___ She was frightened and unwilling to open her 
eyes. This was concerning for alcoholic hallucinosis given the 
time frame and her recent alcohol use, so she was placed on CIWA 
protocol w/ lorazepam for management. By day three, her 
hallucinations had ceased and at time of discharge she was out 
of the alcohol withdrawal window.

#Acute on chronic blood loss anemia
At admission to the ED, the patient was noted to have a Hgb <7, 
so she was given 2u pRBCs, to which she bumped appropriately. 
She has a history of esophageal varices so she was monitored 
with daily CBCs and her Hgb remained > 7 for the rest of her 
stay. She had no evidence of blood loss (no melena, hematemesis, 
BRBPR) throughout her hospitalization. Given her recent fall, a 
CT was ordered to assess for an RP bleed but was negative.

#Fall ___ alcohol use
The patient states that she had been drinking and was exiting 
her closet at which point she fell down a flight of stairs. On 
admission, she had ecchymoses on her arms, legs, and scalp. CT 
head negative for intracranial hemorrhage, CT c-spine negative, 
and shoulder XR normal. She saw ___ while inpatient who 
recommended further ___ while outpatient, for which patient 
already has ___ services.

CHRONIC ISSUES:
===============
#Alcoholic cirrhosis
Patient was monitored for signs of GI bleeds, but no evidence. 
She was started on rifaximin. Otherwise monitored daily MELD 
labs.

#ESRD on HD
Due to concern for uremic encephalopathy, was given HD on two 
consecutive days, then transitioned to home TTS schedule prior 
to discharge.

#Alcohol use disorder
Patient met with social work but stated she does not wish to 
stop drinking at this time. Was given resources for relapse 
prevention.

TRANSITIONAL ISSUES:
====================
[ ] Discharge Cr 5.3
[ ] Discharge AST/ALT ___
[ ] Discharge T bili 
[ ] Discharge Hgb 7.3
[ ] Patient continues to drink alcohol and would benefit from 
therapy, was given resources from Psychology Today for 
clinicians in ___ area that take her insurance and have 
experience in addiction counseling
[ ] Would benefit from further ___ given recent fall
[ ] Weekly CBC and may benefit as an outpatient from scheduled 
transfusions, likely has chronic low volume blood loss from GI 
source leading to anemia
[ ] Would benefit from follow-up on whether she is taking 
lactulose, has history of non-compliance leading to 
hospitalization
[ ] Has missed HD sessions in the past leading to 
hospitalization, could benefit from further counseling
[ ] Had visual hallucinations during alcohol withdrawal and is 
actively drinking, on repeat hospitalizations will be important 
to monitor for signs of withdrawal, she describes this as her 
first episode
[ ] New prescription of rifaximin for patient, but at time of 
discharge unclear if insurance will cover/if she needs prior 
auth, would recommend following up to see if patient is able to 
get medication
[ ] Is taking baclofen for muscle spasms/aches, may be 
contributing to her frequent hospitalizations for AMS, would 
consider re-assessing if necessary in patient

CODE: FCp
CONTACT: ___ (son) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO TID 
2. Pantoprazole 40 mg PO Q12H 
3. Sucralfate 1 gm PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Allopurinol ___ mg PO EVERY OTHER DAY 
6. Baclofen 5 mg PO TID 
7. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
8. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing 
9. Ipratropium Bromide Neb 1 NEB IH BID:PRN wheezing 
10. Levothyroxine Sodium 62.5 mcg PO DAILY 
11. Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis 
12. Midodrine 20 mg PO TID 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL 30 ml by mouth three times a day 
Refills:*0 
2.  rifAXIMin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*1 
3.  Baclofen 2.5 mg PO BID  
4.  Allopurinol ___ mg PO EVERY OTHER DAY  
5.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Ipratropium Bromide Neb 1 NEB IH BID:PRN wheezing  
9.  Lactulose 30 mL PO TID  
10.  Levothyroxine Sodium 62.5 mcg PO DAILY  
11.  Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis  
12.  Midodrine 20 mg PO TID  
13.  Multivitamins 1 TAB PO DAILY  
14.  Pantoprazole 40 mg PO Q12H  
15.  Sucralfate 1 gm PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Hepatic encephalopathy
Alcoholic hallucinosis
Acute on chronic blood loss anemia
Fall ___ alcohol use

SECONDARY DIAGNOSIS
Alcoholic cirrhosis
ESRD on HD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were confused and 
you fell down stairs.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You were given lactulose until you were no longer confused.
- You were given blood because your blood count was low.
- You were monitored for alcohol withdrawal and given 
medications to prevent the symptoms of withdrawal.
- You went to dialysis.
- You saw physical therapy to help with your strength after your 
fall.
- You improved and were ready to leave the hospital.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- You must never drink alcohol again or you will die
- Please enroll in AA and work with your primary care doctor to 
determine the best strategy to help you stay sober
- Take all of your medications as prescribed (listed below)
- Please continue to go to your hemodialysis appointments on 
___, and ___
- Please do not miss your lactulose medication, if you miss this 
medication you ___ become confused and likely end up in the 
hospital
- Please call your primary care doctor and schedule an 
appointment within one week of your discharge
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team
 
Followup Instructions:
___